US05919780
(11H-Benzo[b]pyrido[2,3-e][1,4]diazepin-5-yl)-pyridin-3-ylmethyl-amine
A solution of 0.5 g (2.2 mmol) of 6,11-dihydro-5H-pyrido[2,3-b][1,5]benzodiazepin-5-thione [(European Published Patent Application EP-393,604); C.A. 114, 143455] in 10 mL 2-ethoxyethanol was treated with 0.24 mL (10.8 mmol) of 3-(aminomethyl)pyridine and heated at reflux for 2 days. The mixture was poured into H2O and extracted with EtOAc. The EtOAc was washed three times with H2O, then saturated NaHCO3 solution and saturated NaCl solution. Drying over MgSO4 and removal of the solvent under reduced pressure left the crude product. Chromatography on silica gel, eluting with a gradient of CH2Cl2 /hexane (90/10) to CH2Cl2 /MeOH (94/6) gave 0.35 g (53% yield) of the product as a yellow solid, mp 192-194° C. The structure was confirmed by NMR and mass spectroscopy. (m+H)+ =302.

reactant | 6,11-dihydro-5H-pyrido[2,3-b][1,5]benzodiazepin-5-thione | 2.2 mmol, 0.5 g | N1=CC=CC2=C1NC1=C(NC2=S)C=CC=C1 | C12H9N3S
reactant | 3-(aminomethyl)pyridine | 10.8 mmol, 0.24 mL | NCC=1C=NC=CC1 | C6H8N2
reactant | H2O | O | H2O
solvent | 2-ethoxyethanol | 10 mL | C(C)OCCO | C4H10O2
product | (11H-Benzo[b]pyrido[2,3-e][1,4]diazepin-5-yl)-pyridin-3-ylmethyl-amine | 0.35 g, 53% yield | N1=CC=CC2=C1NC1=C(N=C2NCC=2C=NC=CC2)C=CC=C1 | C18H15N5
